US05536732
Preparation of 1-Methyl-3-Trimethylsilyl-Benzene
A mixture of 9.2 g (50 mmol) of 3-bromo-toluene and 5.84 g (50 mmol) of chlorotrimethylsilane in 100 ml of dry ether are added dropwise to 1.2 g (50 mmol) of magnesium turnings in a few milliliters of ether, some crystals of iodine are added to start the reaction. The reaction mixture is refluxed for 20 hours after the end of the addition and then poured into a saturated solution of ammonium chloride (200 ml). The aqueous solution is further extracted with ether, the ethereal extracts are combined, dried over sodium sulfate, filtered and concentrated under reduced pressure to afford 4.4 g of a yellowish liquid. Flash chromatography ona silica gel column and elution with petroleum ether give 2.3 g (30%) of the expected 1-methyl-3-trimethylsilyl-benzene as a colorless liquid.

reactant | 3-bromo-toluene | 50 mmol, 9.2 g | BrC=1C=C(C=CC1)C | C7H7Br
reactant | chlorotrimethylsilane | 50 mmol, 5.84 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | magnesium | 50 mmol, 1.2 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | a few milliliters | CCOCC | C4H10O
product | 1-Methyl-3-Trimethylsilyl-Benzene | 4.4 g | CC1=CC(=CC=C1)[Si](C)(C)C | C10H16Si
